US06645953B2
Preparation of 3α-flourocholesta-8,14-diene.
Cholesta-8,14-diene-3β-ol (1.17 g, 3 mmol) was dissolved in 10 ml of methylenechloride and cooled to −78° C. Over 10 min a solution of diethylaminosulfur trifluoride (1.4 g, 8.7 mmol) in 10 ml of methylenechloride was added at −78° C. The mixture was stirred for 1½ hour at −78° C. and was then slowly heated to room temperature. To the reaction mixture was added 15 ml of water while stirring was continued. The organic phase was separated and washed with 30 ml of 5% NaHCO3 and then with water. The organic phase was dried with MgSO4 and evaporated to dryness. The residue was purified by column chromatography using heptane for a first fraction and heptane/acetone, 95:5 (w/w) for a second fraction containing 3α-fluorocholesta-8,14 diene, 0.14 g (12%). Melting point: 98.6° C. Elementary analysis: Cal C: 83.88; H: 11.21; F: 4.91. Found C: 83.92; H: 11.75. 19F-NMR: d 181.0 and 181.2 (JHCF 45.2 Hz, C3-aF).

reactant | Cholesta-8,14-diene-3β-ol | 3 mmol, 1.17 g | CC(C)CCC[C@@H](C)[C@H]1CC=C2C=3CCC4C[C@H](CC[C@]4(C)C3CC[C@]12C)O | C27H44O
reactant | diethylaminosulfur trifluoride | 8.7 mmol, 1.4 g | C(C)N(CC)S(F)(F)F | C4H10F3NS
reactant | water | 15 ml | O | H2O
solvent | methylenechloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylenechloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 3α-flourocholesta-8,14-diene | F[C@H]1CC2CCC=3C4=CC[C@H]([C@@H](CCCC(C)C)C)[C@]4(CCC3[C@]2(CC1)C)C | C27H43F
